US07576215B2
3-(4-Carboxymethyl-benzylsulfanyl)phenylboronic acid was prepared from 4-(bromomethyl)phenyl acetic acid and 3-mecaptophenylboronic acid according to the procedure of Example 41.

reactant | 4-(bromomethyl)phenyl acetic acid | BrCC1=CC=C(C=C1)CC(=O)O | C9H9BrO2
reactant | 3-mecaptophenylboronic acid | SC=1C=C(C=CC1)B(O)O | C6H7BO2S
product | 3-(4-Carboxymethyl-benzylsulfanyl)phenylboronic acid | C(=O)(O)CC1=CC=C(CSC=2C=C(C=CC2)B(O)O)C=C1 | C15H15BO4S
